US04870087
A solution of 2.08 g of 3-(4-chlorobutyl)indole [or 2.52 g of 3-(4-bromobutyl)indole] and 1.65 g of 4-(2-thienyl)-1,2,3,6-tetrahydropyridine [hydrochloride, m.p. 242°; obtainable by reaction of 2-thienyl-Li with ethyl 4-oxo-1-piperidinecarboxylate to give ethyl 4-hydroxy-4-(2-thienyl)-1-piperidinecarboxylate, alkaline elimination of the protective group and dehydration with hydrochloric acid] in 10 ml of acetonitrile is stirred at 20° for 12 hours, worked up as usual and 3-[4-(4-(2-thienyl)-1,2,3,6-tetrahydropyridyl)butyl]indole is obtained; hydrochloride ("T"), Rf 0.52.

reactant | 3-(4-chlorobutyl)indole | 2.08 g | ClCCCCC1=CNC2=CC=CC=C12 | C12H14ClN
reactant | 3-(4-bromobutyl)indole | 2.52 g | BrCCCCC1=CNC2=CC=CC=C12 | C12H14BrN
reactant | 4-(2-thienyl)-1,2,3,6-tetrahydropyridine | 1.65 g | S1C(=CC=C1)C=1CCNCC1 | C9H11NS
reactant | hydrochloride | Cl | ClH
reactant | ethyl 4-oxo-1-piperidinecarboxylate | O=C1CCN(CC1)C(=O)OCC | C8H13NO3
product | ethyl 4-hydroxy-4-(2-thienyl)-1-piperidinecarboxylate | OC1(CCN(CC1)C(=O)OCC)C=1SC=CC1 | C12H17NO3S
